US07960562B2
3,3,3-Trifluoropropanal was added to a mixture of sodium hydrogensulfate and water, with vigorously stirring at 0° C., followed by further stirring for 10 minutes. An aqueous solution of potassium cyanide was dropwise added, followed by reaction with stirring at 0° C. for 1 hour and then work-up and purification to obtain 4,4,4-trifluoro-2-hydroxybutanenitrile.

reactant | 3,3,3-Trifluoropropanal | FC(CC=O)(F)F | C3H3F3O
reactant | sodium hydrogensulfate | S(=O)(=O)(O)[O-].[Na+]
reactant | potassium cyanide | [C-]#N.[K+]
solvent | water | O | H2O
product | 4,4,4-trifluoro-2-hydroxybutanenitrile | FC(CC(C#N)O)(F)F | C4H4F3NO
